### PR TITLE
[Merged by Bors] - feat: simple lemmas about polynomials and their degrees

### PR DESCRIPTION
**Pull request by adomani**
This PR extracts some lemmas about polynomials that are helpful for the tactic `compute_degree` (#6221).

The signature of a theorem changed:
```lean
theorem coeff_pow_of_natDegree_le (pn : p.natDegree ≤ n) :
    (p ^ m).coeff (n * m) = p.coeff n ^ m  -- <-- the order of the product was `n * m`
    (p ^ m).coeff (m * n) = p.coeff n ^ m  -- <-- and it became `m * n`
```
Modified files:
```
Data/Polynomial/Basic.lean
Data/Polynomial/Degree/Lemmas.lean
Data/Polynomial/Degree/Definitions.lean
Data/Polynomial/Coeff.lean  -- for a "`simp` can prove this" golf
```

---

- [x] depends on: #6483, where `eq_and_eq_of_le_of_le_of_mul_le` moved earlier in the import hierarchy

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Basic.lean [hunk 1]
```diff
@@ -727,6 +727,9 @@ theorem coeff_C_zero : coeff (C a) 0 = a :=
 theorem coeff_C_ne_zero (h : n ≠ 0) : (C a).coeff n = 0 := by rw [coeff_C, if_neg h]
 #align polynomial.coeff_C_ne_zero Polynomial.coeff_C_ne_zero
 
+theorem coeff_nat_cast_ite : (Nat.cast m : R[X]).coeff n = ite (n = 0) m 0 := by
```
Comment (j-loreaux) [inline Mathlib/Data/Polynomial/Basic.lean:730]: Should this be marked `simp`? I'm not sure and I'll defer to your judgment.

Comment (adomani) [reply Mathlib/Data/Polynomial/Basic.lean:730]: Yes, you are probably right.  There isn't a lot of consistency in labeling as `simp` in `Polynomial`, but there is the precedent of docs#Polynomial.natDegree_monomial.

Comment (adomani) [reply Mathlib/Data/Polynomial/Basic.lean:733]: @j-loreaux I went ahead with your `simp` suggestion and Lean found a golfing opportunity!  Let's see if the PR builds again.

File: Mathlib/Data/Polynomial/Coeff.lean [hunk 2]
```diff
@@ -370,11 +370,8 @@ end Coeff
 
 section cast
 
-@[simp]
 theorem nat_cast_coeff_zero {n : ℕ} {R : Type _} [Semiring R] : (n : R[X]).coeff 0 = n := by
-  induction' n with n ih
-  · simp
-  · simp [ih]
+  simp? says simp only [coeff_nat_cast_ite, ite_true]
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Coeff.lean:374]:
```suggestion
  simp only [coeff_nat_cast_ite, ite_true]
```

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 3]
```diff
@@ -181,6 +181,18 @@ theorem coeff_pow_of_natDegree_le (pn : p.natDegree ≤ n) :
     exact mul_le_mul_of_nonneg_left pn m.zero_le
 #align polynomial.coeff_pow_of_nat_degree_le Polynomial.coeff_pow_of_natDegree_le
 
+theorem coeff_pow_of_natDegree_le_of_eq_ite {o : ℕ}
+    (pn : natDegree p ≤ n) (mno : m * n ≤ o) :
+    coeff (p ^ m) o = if o = m * n then (coeff p n) ^ m else 0 := by
+  split_ifs with h
+  · subst h
+    rw [mul_comm]
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:189]: I think this `mul_comm` is a sign that `coeff_pow_of_natDegree_le` should be restated.

Indeed if we restate it as follows:
```lean
theorem coeff_pow_of_natDegree_le (pn : p.natDegree ≤ n) :
    (p ^ m).coeff (m * n) = p.coeff n ^ m := by
  induction' m with m hm
  · simp
  · rw [pow_succ', pow_succ', ← hm, Nat.succ_mul, coeff_mul_of_natDegree_le _ pn]
    refine' natDegree_pow_le.trans (le_trans _ (le_refl _))
    exact mul_le_mul_of_nonneg_left pn m.zero_le
```
then its proof no longer needs to invoke `mul_comm` and the requirement here disappears too.

Comment (ocfnash) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean:189]: And then this result golfs to:
```lean
theorem coeff_pow_eq_ite_of_natDegree_le_of_le {o : ℕ}
    (pn : natDegree p ≤ n) (mno : m * n ≤ o) :
    coeff (p ^ m) o = if o = m * n then (coeff p n) ^ m else 0 := by
  rcases eq_or_ne o (m * n) with rfl | h
  · simpa only [ite_true] using coeff_pow_of_natDegree_le pn
  · simpa only [h, ite_false] using coeff_eq_zero_of_natDegree_lt $
      lt_of_le_of_lt (natDegree_pow_le_of_le m pn) (lt_of_le_of_ne mno h.symm)
```

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 4]
```diff
@@ -181,6 +181,18 @@ theorem coeff_pow_of_natDegree_le (pn : p.natDegree ≤ n) :
     exact mul_le_mul_of_nonneg_left pn m.zero_le
 #align polynomial.coeff_pow_of_nat_degree_le Polynomial.coeff_pow_of_natDegree_le
 
+theorem coeff_pow_of_natDegree_le_of_eq_ite {o : ℕ}
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:184]:
```suggestion
theorem coeff_pow_eq_ite_of_natDegree_le_of_le {o : ℕ}
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 5]
```diff
@@ -245,6 +245,29 @@ theorem induction_with_natDegree_le (P : R[X] → Prop) (N : ℕ) (P_0 : P 0)
       exact Nat.succ_ne_zero _
 #align polynomial.induction_with_nat_degree_le Polynomial.induction_with_natDegree_le
 
+theorem coeff_mul_add_of_le_natDegree_of_eq {df dg : ℕ} {g : R[X]}
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/EraseLead.lean:248]: This seems like a strange file for this lemma. Is there really no easy proof without using `Polynomial.induction_with_natDegree_le`?

**Review by ocfnash — COMMENTED** [review]
Thanks, a few minor comments.

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean]: I accepted this and added a `post-porting note`, since the align statement will no longer point to a theorem with the same signature.

File: Mathlib/Data/Polynomial/EraseLead.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Data/Polynomial/EraseLead.lean:248]: I tried a little proving this result without this induction.  I also tried moving this induction much earlier in the import hierarchy.  Both these attempts have been unsuccessful.

I would be happy to see progress in either direction, though!  :smile:

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 6]
```diff
@@ -245,6 +245,29 @@ theorem induction_with_natDegree_le (P : R[X] → Prop) (N : ℕ) (P_0 : P 0)
...
+      apply coeff_eq_zero_of_natDegree_lt
+      apply hdg.trans_lt
+      rw [add_comm, Nat.add_sub_assoc hn]
+      apply Nat.lt_add_of_pos_right
+      apply Nat.sub_pos_of_lt
+      exact Ne.lt_of_le' H hn
+  · intros f g _fg _gle hf hg h hle
+    rw [add_mul, coeff_add, coeff_add, add_mul]
+    congr <;> solve_by_elim
+  · assumption
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/EraseLead.lean:269]: A proof that should fit in Mathlib.Data.Polynomial.Degree.Definitions except for requiring a lemma in your own Mathlib.Algebra.Group.UniqueProds that should probably be moved earlier:
```
  rw [coeff_mul, Finset.sum_eq_single_of_mem (df, dg)]
  · rw [Finset.Nat.mem_antidiagonal]
  rintro ⟨df', dg'⟩ hmem hne
  obtain h | hdf' := lt_or_le df df'
  · rw [coeff_eq_zero_of_natDegree_lt (hdf.trans_lt h), zero_mul]
  obtain h | hdg' := lt_or_le dg dg'
  · rw [coeff_eq_zero_of_natDegree_lt (hdg.trans_lt h), mul_zero]
  rw [Finset.Nat.mem_antidiagonal] at hmem
  have := eq_and_eq_of_le_of_le_of_add_le hdf' hdg' hmem.ge
  exact (hne.symm <| Prod.ext this.1 this.2).elim
```

Comment (adomani) [reply Mathlib/Data/Polynomial/EraseLead.lean:269]: @alreadydone thank you!  I had forgotten about the `eq_and_eq_of_le_of_le_of_mul_le` lemma!

I created #6483 to relocate the lemma.  I am now going to update the current PR to depend on the relocation and to relocate `coeff_mul_add_of_le_natDegree_of_eq`.

File: Mathlib/Data/Polynomial/Degree/Definitions.lean [hunk 7]
```diff
@@ -1077,6 +1077,20 @@ theorem coeff_pow_mul_natDegree (p : R[X]) (n : ℕ) :
       exact coeff_mul_degree_add_degree _ _
 #align polynomial.coeff_pow_mul_nat_degree Polynomial.coeff_pow_mul_natDegree
 
+theorem coeff_mul_add_of_le_natDegree_of_eq {df dg : ℕ} {g : R[X]}
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Degree/Definitions.lean:1080]:
```suggestion
theorem coeff_mul_add_eq_of_natDegree_le {df dg : ℕ} {g : R[X]}
```

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 8]
```diff
@@ -172,15 +172,26 @@ theorem coeff_mul_of_natDegree_le (pm : p.natDegree ≤ m) (qn : q.natDegree ≤
     exact natDegree_lt_coeff_mul (add_lt_add hm hn)
 #align polynomial.coeff_mul_of_nat_degree_le Polynomial.coeff_mul_of_natDegree_le
 
+-- post-porting note: the signature of this theorem changed.  it was
+-- theorem coeff_pow_of_natDegree_le (pn : p.natDegree ≤ n) :
+--     (p ^ m).coeff (n * m) = p.coeff n ^ m :=
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:177]: We're continuously changing the library now, such notes are not necessary.
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the suggestions and then feel free to merge.

bors d+
